US07495006B2
3-Benzyloxymethyl-2-fluoro-cyclobutylamine
Benzyl-(3-benzyloxymethyl-2-fluoro-cyclobutyl)-amine (0.34 g, 1.21 mmol) was dissolved in 10 mL MeOH and this was treated with 20% Pd(OH)2 on carbon (0.07 g, 0.11 mmol). This was subjected to the hydrogenolysis conditions (50 psi). After 22 hr, the reaction mixture was filtered through celite and the filtrated was concentrated and was purified by silica gel flash chromatography (Hexane: EtOAc=1:1) to give 0.16 g (63%, Rf=0.30 (CH2Cl2:MeOH=15:1)). 1H NMR (CDCl3, 400 MHz): δ 2.08-2.16 (m, 2H), 2.96-3.12 (m, 1H), 3.52-3.64 (m, 2H), 3.88-3.94 (m, 1H), 4.55 (s, 2H), 5.03-5.19 (td, 1H, J=52.8, 6.0), 7.25-7.38 (m, 5H). 13C NMR (CDCl3, 100 MHz): δ 23.12-23.21 (d, J=9.0), 42.13-42.34 (d, J=21), 48.30, 70.07, 74.39, 87.46-89.63 (d, J=217), 128.98, 129.05, 129.61, 139.63. MS (FAB): expected for C12H16FNO (M+H)+ 210.26. Found 210.12885.

reactant | Benzyl-(3-benzyloxymethyl-2-fluoro-cyclobutyl)-amine | 1.21 mmol, 0.34 g | C(C1=CC=CC=C1)NC1C(C(C1)COCC1=CC=CC=C1)F | C19H22FNO
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd(OH)2 on carbon | 0.11 mmol, 0.07 g | [OH-].[OH-].[Pd+2]
product | 3-Benzyloxymethyl-2-fluoro-cyclobutylamine | C(C1=CC=CC=C1)OCC1C(C(C1)N)F | C12H16FNO
